US09120749B2
tert-butyl 3-(5-aminopyridin-2-ylamino)piperidine-1-carboxylate
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with tert-butyl 3-aminopiperidine-1-carboxylate (695 mg, 3.5 mmol) followed by reduction to afford the desired product (337 mg, 35%) as a purple solid: ESI MS m/z 293 [C15H24N4O2+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl 3-aminopiperidine-1-carboxylate | 3.5 mmol, 695 mg | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-butyl 3-(5-aminopyridin-2-ylamino)piperidine-1-carboxylate | 337 mg, 35% | NC=1C=CC(=NC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C15H24N4O2
